US07427683B2
b) 1-(5-Methoxy-2-nitro-phenyl)-piperidine
To 1-(5-chloro-2-nitro-phenyl)-piperidine (197 mg, 0.810 mmol) in 1.5 mL of DMF was added 4 mL of 0.5 M NaOMe in MeOH (2.5 eq). The resultant solution was heated at 60° C. overnight, then at 90° C. for 24 h. The reaction was diluted with EtOAc (50 mL) and washed with water (50 mL), dried (Na2SO4) and concentrated in vacuo. Purification by preparative TLC (20% EtOAc-hexane) gave 80 mg (41%) of the title compound, along with 80 mg (40%) of recovered starting material. 1H-NMR (CDCl3; 400 MHz): δ 7.95 (d, 1H, J=9.1 Hz), 6.51 (d, 1H, J=2.6 Hz), 6.46 (dd, 1H, J=2.6, 9.1 Hz), 3.87 (s, 3H), 3.01-3.04 (m, 4H), 1.72-1.78 (m, 4H), 1.60-1.64 (m, 2H).

reactant | 1-(5-chloro-2-nitro-phenyl)-piperidine | 0.810 mmol, 197 mg | ClC=1C=CC(=C(C1)N1CCCCC1)[N+](=O)[O-] | C11H13ClN2O2
reactant | NaOMe | 0.5 M, 4 mL | C[O-].[Na+]
reactant | MeOH | 2.5 eq | CO | CH4O
solvent | DMF | 1.5 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
product | 1-(5-Methoxy-2-nitro-phenyl)-piperidine | 80 mg, 41% | COC=1C=CC(=C(C1)N1CCCCC1)[N+](=O)[O-] | C12H16N2O3
